US08735417B2
2,4-Dichloropyrimidine (250 mg, 1.68 mmol) and ferric acetylacetonate (30 mg, 0.08 mmol) were taken up in tetrahydrofuran (3.4 ml) and the reaction was cooled to −78° C. Cyclobutylmagnesium chloride (3.4 ml of 0.5 M, 1.68 mmol) was added dropwise and the mixture was stirred at −78° C. for 30 min. The mixture was quenched with aqueous ammonium chloride and extracted with ethyl acetate. The combined organic fractions were washed with aqueous sodium hydrogen carbonate, dried over magnesium sulfate, filtered, and the solvent was evaporated under reduced pressure. The residue was purified by Combiflash (0-5% ethyl acetate in hexanes) to provide 121 mg (0.72 mmol, 43%) of 2-chloro-4-cyclobutylpyrimidine as a colorless oil. MS APCI: [M+H]+ m/z 169.1. Step 2:

reactant | 2,4-Dichloropyrimidine | 1.68 mmol, 250 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | Cyclobutylmagnesium chloride | 1.68 mmol, 0.5 M, 3.4 ml | C1(CCC1)[Mg]Cl
solvent | tetrahydrofuran | 3.4 ml | O1CCCC1 | C4H8O
product | 2-chloro-4-cyclobutylpyrimidine | 0.72 mmol, 121 mg, 43% | ClC1=NC=CC(=N1)C1CCC1 | C8H9ClN2
